Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
doxycycline
 
Attending: ___.
 
Chief Complaint:
left shoulder pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female with history of substance 
use
disorder on suboxone presenting with left shoulder pain after
falling off a ___.

Patient was riding her daughter's ___ on ___ and ___
on her left side without striking her head or losing
consciousness. She went to her PCP and had ___ left shoulder XR
which was unremarkable. She went to ___ for further
evaluation and had chest pain in the ED. An EKG was done which
was within normal limits but troponin was elevated at 0.05.
Patient was transferred to ___ for further evaluation. 

In the ED, she reported chest pain and had another unremarkable
EKG and negative troponins x2. She had CT chest/abdomen/pelvis
showing bilateral ground-glass opacities concerning for
infectious or inflammatory etiology. Cross-sectional imaging did
not show evidence of trauma. Patient was admitted for further
work-up of ground glass opacities seen on CT chest. 
 
In the ED,
- Initial vitals: 98 85 113/69 15 94% RA 
 
- Exam notable for: 
- Labs showed:  Hgb/Hct 10.6/31.6, Normal CHEM-7, Trop-T < 0.01
x2, Lactate 1.2, FluA/B PCR negative

- Imaging showed: 
___ CXR: Bilateral opacities, most predominant the lower
lungs, are better seen on the chest CT from the same date.
Infection is most likely, but inflammatory etiologies such as
organizing pneumonia can cause a similar appearance.

___ CT CHEST W/O CONTRAST: 
1. No evidence of pulmonary embolism. No evidence of fracture.
2. Diffuse bilateral ground-glass opacities with a basilar
predominance are nonspecific. Infectious or inflammatory
etiologies such as multifocal pneumonia or organizing pneumonia
are most likely, as there is probable reactive hilar and
mediastinal lymphadenopathy. Alveolar hemorrhage is on the
differential diagnosis, but is less likely.

___ CT ABD/PELVIS W/O CONTRAST:
1. Bilateral ground-glass opacities are better assessed on CT
chest of the same date.
2. No evidence of traumatic injury in the abdomen or pelvis.

- Patient received: Azithromycin 500 mg IV, Ceftriaxone 1 g IV,
Gabapentin 400 mg PO x2, Bupropion 100 mg PO, Acetaminophen 1 g
PO 

- Trauma Surgery, Respiratory Therapy were consulted.
- Transfer VS were: 98.1 69 114/52 17 97% RA 

On arrival to the floor, pt reports she is tired from being in
the ED. She denies fevers, chills, N/V, cough, recent drug use
other than marijuana, chest pain, pleurisy, dyspepsia,
palpitations, headache, or abdominal pain. She has not had a
recent cough. Her left side is painful after the fall but she
denies any arthralgias or myalgias prior the fall. 
 
Past Medical History:
Substance use disorder (cocaine, opioids, EtOH)
Anxiety
Depression
 
 
Social History:
___
Family History:
___ 
 
 
Physical Exam:
ADMISSION PHYSICAL:
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, no focal deficits 
Skin:  No rash or lesion

DISCHARGE PHYSICAL
VS:98.3 ___
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, no focal deficits 
Skin:  No rash or lesion
 
Pertinent Results:
LABS:

___ 05:57AM BLOOD WBC-6.3 RBC-3.36* Hgb-10.6* Hct-31.6* 
MCV-94 MCH-31.5 MCHC-33.5 RDW-11.9 RDWSD-41.1 Plt ___
___ 09:12AM BLOOD WBC-8.9 RBC-3.74* Hgb-11.6 Hct-34.2 
MCV-91 MCH-31.0 MCHC-33.9 RDW-11.9 RDWSD-39.9 Plt ___
___ 05:57AM BLOOD Glucose-92 UreaN-9 Creat-0.6 Na-142 K-4.2 
Cl-104 HCO3-24 AnGap-14
___ 05:57AM BLOOD cTropnT-<0.01
___ 11:10AM BLOOD cTropnT-<0.01
___ 06:21AM BLOOD Lactate-1.2

STRESS:
INTERPRETATION: This ___ year old woman with a history of smoking 
was
referred to the lab after recent fall due to incidental finding 
of
atypical chest discomfort. The patient exercised for 12 minutes 
of a
modified ___ protocol and asked the test be stopped for 
fatigue. The
estimated peak MET capacity was 10.1 which represents a good 
functional
capacity for her age. Her resting oxygen saturation on room air 
was
100%. The patient presented to the lab with ___ localized left 
chest
discomfort that was isolated on the left sternal border ___ 
intercostal
space. It was more sensative to inspiration and palpation. There 
was no
progressive arm, neck, back or chest discomfort during exercise 
or in
recovery. There were no significant ST segment changes 
throughout. The
oxygen saturation at peak exercise was 98% on room air. The 
rhythm was
sinus with rare isolated vpbs and one ventricular couplet. 
Appropriate
hemodynamic response to exercise and recovery.
IMPRESSION: Atypical symptoms in the absence of ischemic EKG 
changes.
Echo report sent separately.

TTE:
The patient exercised for 12 minutes and 0 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 147 bpm and a peak blood pressure of 164/70 mmHg. 
The test was stopped because of leg fatigue. The test was 
stopped at the patient's request. This level of exercise 
represents a good exercise tolerance for age and gender. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). with normal blood pressure and 
heart rate responses to stress. 

Resting images were acquired at a heart rate of 67 bpm and a 
blood pressure of 127/78 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Resting E/e' is <=8 suggesting PCWP<12mmHg. Doppler 
demonstrated no aortic stenosis, aortic regurgitation or 
significant mitral regurgitation or resting LVOT gradient.

Echo images were acquired within 58 seconds after peak stress at 
heart rates of 144 - 111 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

IMPRESSION: good functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. 
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of opioid use 
disorder on suboxone who was transferred from an OSH with left 
shoulder pain after falling off a ___ a few days ago.

ACTIVE ISSUES
==============
#Should pain s/p mechanical fall
#Dyspnea and Troponin elevation
#Bilateral ground glass opacities on chest imaging
#Normocytic anemia
#Ongoing tobacco abuse

She was found to have an elevated troponin-I of 0.05 per report 
at the OSH. She was transferred to ___ for trauma surgery 
evaluation due to concern for cardiac contusion. She was 
evaluated by trauma surgery who felt that she did not have signs 
of cardiac contusion. She had 2 negative troponins at the ___ 
ED. She had a stress echo test given report of chronic dyspnea 
which showed normal LV function and was negative for evidence of 
ischemia.  She also had an O2 sat recorded at peak exercise 
which was 98% on RA.  She had a CT chest at the OSH which showed 
some small ground glass opacities. She did not have any symptoms 
of cough, hemoptysis, or other symptoms of infection or 
pneumonia.  Additionally, her hgb was stable making diffuse 
alveolar hemorrhage highly unlikely. She was started on IV 
ceftriaxone and azithromycin x 1 in the ED.  On admission 
antibiotics were discontinued. She continued to have no symptoms 
except for left sided shoulder pain and body pain which was 
improved on a PO pain regimen.  She was given Tylenol, IV 
Toradol, and lidocaine patches and discharged home the next 
morning.

Ground glass opacities were felt not to be infectious in 
etiology. The patient did not have any signs of symptoms 
consistent with inflammatory etiology. This should be 
re-evaluated as an outpatient.

TRANSITIONAL ISSUES:
====================
[] consider repeat CT chest in ___ weeks for ground glass 
opacities, to look for resolution.  Pt. has noted some subacute 
to chronic dyspnea over the last several months.  If continues 
symptoms, would consider pulmonary outpatient follow-up
[] consider outpatient physical therapy if her pain does not 
improve
[] outpatient normocytic anemia evaluation recommended
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 400 mg PO TID 
2. BuPROPion (Sustained Release) 100 mg PO QAM 
3. Buprenorphine-Naloxone Film (4mg-1mg) 1 FILM SL DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
Take with food 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply to left side daily Disp #*30 Patch 
Refills:*0 
4.  Buprenorphine-Naloxone Film (4mg-1mg) 1 FILM SL DAILY  
5.  BuPROPion (Sustained Release) 100 mg PO QAM  
6.  Gabapentin 400 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Ground glass opacities on cat scan
Left shoulder pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking care of you at ___.

Why was I here?
- You were admitted for pain after falling off a ___.

What was done for me here?
- You had a cat scan that showed some mild non-specific 
abnormalities but you had no symptoms of lung disease.
- You had blood tests which showed that you did not have any 
heart damage.
- You were seen by the trauma surgeons who agreed that you did 
not have any dangerous trauma related injuries from your fall.
- You were treated with IV Toradol for pain.

What should I do when I leave the hospital?
- You should take your home medications as prescribed.
- You should follow up with your PCP.

Sincerely,
Your ___ Team
 
Followup Instructions:
___